US09303014B2
In certain embodiments, when the hydrogen donor is formic acid, the transfer hydrogenation further comprises the step of hydrolyzing N-(3-(2,6-dioxopiperidin-3-yl)-2-methyl-4-oxo-3,4-dihydroquinazolin-5-yl)formamide to form 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione as described herein elsewhere.

reactant | hydrogen | [H][H] | H2
reactant | N-(3-(2,6-dioxopiperidin-3-yl)-2-methyl-4-oxo-3,4-dihydroquinazolin-5-yl)formamide | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)NC=O)C)=O | C15H14N4O4
solvent | formic acid | C(=O)O | CH2O2
product | 3-(5-amino-2-methyl-4-oxoquinazolin-3(4H)-yl)piperidine-2,6-dione | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
